US06211199B1
99.2 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-(isopropyloxy)ethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt
Combine 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-(isopropyloxy)ethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine (0.42 g, 0.62 mmol) and dichloromethane (10 mL). Add a solution of hydrochloric acid in dioxane (0.4 mL, 4 M, 1.6 mmol). After 15 minutes, pour the reaction mixture into diethyl ether (300 mL) to give a solid. Collect the solid by filtration and dry in vacuo at 90° C. to give the title compound.

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-(isopropyloxy)ethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | 0.62 mmol, 0.42 g | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOC(C)C)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C38H47N9O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 1.6 mmol, 4 M, 0.4 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-(isopropyloxy)ethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | Cl.COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CCOC(C)C)C=CC=C3)C=C(C=C1)N1N=NN=C1 | InChI=1S/C38H47N9O3.ClH/c1-28(2)50-24-23-46-34-12-8-7-11-33(34)41-37(46)40-30-15-19-44(20-16-30)21-17-38(29-9-5-4-6-10-29)18-22-45(26-38)36(48)32-25-31(13-14-35(32)49-3)47-27-39-42-43-47;/h4-14,25,27-28,30H,15-24,26H2,1-3H3,(H,40,41);1H
